US07834035B2
2-[3-(4-Fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-morpholine-4-carboxylic acid tert-butyl ester (0.325 g, 0.93 mmol) was dissolved in dichloromethane (3 mL) and 5 mL of HCl 4N (dioxane solution) were added dropwise. The resulting mixture was stirred at room temperature for 2 h. The solvent was evaporated under reduced pressure to afford 265 mg (yield: 100%) of 2-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-morpholine hydrochloride as a white solid.

reactant | 2-[3-(4-Fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-morpholine-4-carboxylic acid tert-butyl ester | 0.93 mmol, 0.325 g | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=NC(=NO1)C1=CC=C(C=C1)F | C17H20FN3O4
reactant | HCl | 4N, 5 mL | Cl | ClH
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-morpholine hydrochloride | 265 mg, yield: 100% | Cl.FC1=CC=C(C=C1)C1=NOC(=N1)C1CNCCO1 | InChI=1S/C12H12FN3O2.ClH/c13-9-3-1-8(2-4-9)11-15-12(18-16-11)10-7-14-5-6-17-10;/h1-4,10,14H,5-7H2;1H
